US07517873B2
A solution of 1.44 g (0.00395 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-phenyl-amino]-2-methyl-propanoic acid ethyl ester (IV-51), 0.35 g of 10% palladium on carbon and 30 mL of ethyl acetate was stirred under an atmosphere of hydrogen for 1 day. The mixture was filtered, and then concentrated under reduced pressure. The residue was dissolved in 10 mL of a 20:80 mixture acetic acid—ethyl acetate and heated to reflux for 18 hours. The mixture was then cooled, concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate and then brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with hot ethyl acetate and dried to give 0.043 g of (rac)-2-chloro-7-methyl-9-phenyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-51) as white powder.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-phenyl-amino]-2-methyl-propanoic acid ethyl ester | 0.00395 mole, 1.44 g | C(C)OC(C(CN(C1=CC=CC=C1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C16H17ClN4O4
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-2-chloro-7-methyl-9-phenyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.043 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2=CC=CC=C2)N1 | C14H13ClN4O
